US07906517B2
Ethyl [4-(tert-butoxycarbonylamino-methyl)-piperidin-1-yl]-acetate (1.86 g) is dissolved in N,N-dimethylformamide (10 ml), and thereto are added sodium hydride (63%) (1.19 g) and ethyl iodide (6.0 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is made weak basic with a 10% aqueous citric acid solution and a saturated aqueous sodium bicarbonate solution, and extracted with ethyl acetate, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give ethyl {4-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-piperidine-1-yl}-acetate (905 mg). MS (m/z): 329 [M+H]+

reactant | Ethyl [4-(tert-butoxycarbonylamino-methyl)-piperidin-1-yl]-acetate | 1.86 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CC(=O)OCC | C15H28N2O4
reactant | sodium hydride | 1.19 g | [H-].[Na+]
reactant | ethyl iodide | 6.0 ml | C(C)I | C2H5I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl {4-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-piperidine-1-yl}-acetate | 905 mg | C(C)(C)(C)OC(=O)N(CC)CC1CCN(CC1)CC(=O)OCC | C17H32N2O4
